US08048901B2
(1R,3S)-5,7-Difluoro-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-indole-2-carboxylic acid
79 mg of 5,7-difluoroindolecarboxylic acid are dissolved in 2 ml of dried DMF, and 34 mg of 60 percent strength sodium hydride suspension are added. After 30 min at room temperature, 100 mg of ((1R,3S)-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy)ethyl toluene-4-sulfonate, dissolved in 2 ml of DMF, are added. The mixture is stirred at 65° C. until the reaction has gone to completion (monitored by LC-MS). 50 μl of TFA are added, the mixture is filtered and the residue is purified by RP-HPLC. This gives 40 mg of (1R,3S)-5,7-difluoro-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-indole-2-carboxylic acid as a colorless oil. C29H30F2N2O5 (524.56), MS (ESI): 525 (M+H+).

reactant | 5,7-difluoroindolecarboxylic acid | 79 mg | FC=1C=C2C=C(NC2=C(C1)F)C(=O)O | C9H5F2NO2
reactant | sodium hydride | [H-].[Na+]
reactant | (1R,3S)-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy)ethyl toluene-4-sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C=1C=C(C=CC1)C)C | C27H33NO6S
reactant | TFA | 50 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (1R,3S)-5,7-Difluoro-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-indole-2-carboxylic acid | FC=1C=C2C=C(N(C2=C(C1)F)CCO[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C=1C=C(C=CC1)C)C(=O)O | C29H30F2N2O5
